US04952600
A solution of 1.76 g of (S)-3-hydroxy-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone and 2.4 ml of triethylamine in 50 ml of dichloromethane was cooled to 0° C. A 1.2 ml portion of methane sulfonyl chloride was added dropwise and the solution was stirred at 0° C. for 1 hour. The mixture was washed with aqueous sodium bicarbonate and brine, dried, concentrated and reconcentrated from toluene. The residue was purified by chromatography (silica gel) to give 1.5 g of (S)-3-[(methanesulfonyl)oxy]-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone as a colorless oil.

reactant | (S)-3-hydroxy-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone | 1.76 g | O[C@@H]1C(N(CC1)CC#CCN1CCCC1)=O | C12H18N2O2
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-3-[(methanesulfonyl)oxy]-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone | 1.5 g | CS(=O)(=O)O[C@@H]1C(N(CC1)CC#CCN1CCCC1)=O | C13H20N2O4S
